US04279839
O,O-diethyl isopropyl[[(fluorocarbonyl)methylamino]thio]phosphoramidothioate II1
A solution of O,O-diethyl isopropylphosphoramidothioate (14.9 g, 70.8 mmol) and triethylamine (9.8 ml, 70.8 mmol) in tetrahydrofuran (50 ml) is added dropwise over 10 minutes to a solution of N-chlorothio(methyl)carbamoyl fluoride (10.2 g, 70.8 mmol) in tetrahydrofuran (50 ml) cooled in an ice bath. After the addition the mixture is stirred for 1.5 hours at 0°, diluted with ether (200 ml), washed with ice cold water, dried over sodium sulfate and concentrated under reduced pressure. The residue shows identical absorptions in the ir and pmr spectra for νC=O and N--CH3 as obtained for the yellow oil that is intermediate II1 of Example 1. The crude II1 product is suitable for reaction with methyl N-hydroxyethanimidothioate as in Example 1.

reactant | O,O-diethyl isopropylphosphoramidothioate | 70.8 mmol, 14.9 g | C(C)(C)NP(OCC)(OCC)=S | C7H18NO2PS
reactant | triethylamine | 70.8 mmol, 9.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-chlorothio(methyl)carbamoyl fluoride | 70.8 mmol, 10.2 g | ClSN(C(=O)F)C | C2H3ClFNOS
reactant | methyl N-hydroxyethanimidothioate | ON=C(C)SC | C3H7NOS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | O,O-diethyl isopropyl[[(fluorocarbonyl)methylamino]thio]phosphoramidothioate | C(C)(C)N(P(OCC)(OCC)=S)SNCC(=O)F | C9H20FN2O3PS2
